US06914074B2
2-Methoxy-6-(3-methoxyphenyl)naphthalene
The title compound was prepared by reacting 6-methoxy-2-bromonaphthalene (3.09 g, 13.0 mmol) with 3-methoxyphenylboronic acid (2.18 g, 14.3 mmol according to method A to yield 1.18 g (34%) of a white solid: mp 80° C.; 1H NMR (CDCl3): δ 3.88 (3H, s), 3.92(3H, s), 6.90 (1H, dd, J=2.17 Hz, J=7.76 Hz), 7.14-7.18 (2H, m), 7.22-7.24 (1H, m), 7.28 (1H, d, J=7.45 Hz), 7.36-7.39, (1H, m), 7.70 (1H, dd, J=1.86 Hz, J=8.70 Hz), 7.77-7.80 (2H, m), 7.96 (1H, d, J=1.24 Hz); MS (ESI) m/z 265 (M+H)+.

reactant | 6-methoxy-2-bromonaphthalene | 13.0 mmol, 3.09 g | COC=1C=C2C=CC(=CC2=CC1)Br | C11H9BrO
reactant | 3-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 2-Methoxy-6-(3-methoxyphenyl)naphthalene | COC1=CC2=CC=C(C=C2C=C1)C1=CC(=CC=C1)OC | C18H16O2
